US05096919
Similarly prepared is N-acetyl-N-acetyloxy-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-cinnamylamine. The starting material is prepared by first condensing p-amino-benzaldehyde with acetonylacetone to obtain 4-(2,5-di-methyl-1H-pyrrol-1-yl)-benzaldehyde which is in turn condensed with diethyl phosphonoacetaldehyde diethylacetal to obtain 4-(2,5-dimethyl-1H-pyrrol-1-yl)-cinnamaldehyde. The aldehyde is then converted to the oxime and reduced to the hydroxylamine according to previously described procedures.

reactant | 4-(2,5-dimethyl-1H-pyrrol-1-yl)-cinnamylamine | CC=1N(C(=CC1)C)C1=CC=C(C=CCN)C=C1 | C15H18N2
reactant | p-amino-benzaldehyde | NC1=CC=C(C=O)C=C1 | C7H7NO
reactant | acetonylacetone | C(C(=O)C)CC(C)=O | C6H10O2
product | 4-(2,5-di-methyl-1H-pyrrol-1-yl)-benzaldehyde | CC=1N(C(=CC1)C)C1=CC=C(C=O)C=C1 | C13H13NO
